US04904300
Example P1: 1-(3,3-dimethylisothiochroman-4-yl)-5-imidazolecarboxylic acid methyl ester (Compound 1.016)
A solution of 5.0 g of 4-amino-1-(3,3-dimethylisothiochroman-4-yl)-5-imidazolecarboxylic acid methyl ester in 10 ml of tetrahydrofuran is added dropwise to a solution of 3.1 ml of tert.-butyl nitrite in 10 ml of tetrahydrofuran. After stirring for 16 hours at room temperature, the reaction mixture is poured onto ice-water. After extraction with ether, the organic phase is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated by evaporation. The residue is purified by chromatography on silica gel (eluant: ethyl acetate/hexane 2:5). There are thus obtained 3.2 g of 1-(3,3-dimethylisothiochroman-4-yl)-5-imidazolecarboxylic acid methyl ester in the form of a yellow resin which is caused to crystallise with hexane. The crystalline compound has a melting point of 108°-109° C.

reactant | 4-amino-1-(3,3-dimethylisothiochroman-4-yl)-5-imidazolecarboxylic acid methyl ester | 5.0 g | COC(=O)C1=C(N=CN1C1C(SCC2=CC=CC=C12)(C)C)N | C16H19N3O2S
reactant | tert.-butyl nitrite | 3.1 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3,3-dimethylisothiochroman-4-yl)-5-imidazolecarboxylic acid methyl ester | COC(=O)C1=CN=CN1C1C(SCC2=CC=CC=C12)(C)C | C16H18N2O2S
